US06992087B2
Preparation of 3,6-dimethyl-N-(1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine
Following the procedure for the preparation of (1R,2S)-1-[(3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol but substituting 1,2,3,4-tetrahydronaphthalen-1-amine and 3-chloro-2,5-dimethylpyrazine, and making non-critical variations provided the title compound as a oil: 1H NMR (CDCl3) δ 1.91, 2.11, 2.31, 2.40, 2.87, 4.50, 5.16, 7.21, 7.35, 7.62; MS (ESI+) for C16H19N3 m/z 254.4 (M+H)+.

reactant | (1R,2S)-1-[(3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | C(C)C=1C(=NC(=CN1)CC)N[C@H]1[C@H](CC2=CC=CC=C12)O | C17H21N3O
reactant | 1,2,3,4-tetrahydronaphthalen-1-amine | C1(CCCC2=CC=CC=C12)N | C10H13N
reactant | 3-chloro-2,5-dimethylpyrazine | ClC=1C(=NC=C(N1)C)C | C6H7ClN2
product | 3,6-dimethyl-N-(1,2,3,4-tetrahydronaphthalen-1-yl)pyrazin-2-amine | CC=1C(=NC(=CN1)C)NC1CCCC2=CC=CC=C12 | C16H19N3
